US05521181
5-Amino-4-carboethoxy-2-methoxythiophene
To methanol (404 μL, 10 mmol) in THF (10 mL) at 0° C. under nitrogen was added 2.5M n-BuLi (4.0 mL, 10 mmol). After stirring 20 minutes, CS2 (600 μL, 10 mmol) was added and stirring was continued for 4 hours. The reaction was then cooled to 0° C. followed by the addition of MeI (620 μL, 10 mmol) whereupon the reaction was stirred for 4 hours at 0° C. then at ambient temperature overnight. In a separate flask the anion of acetonitrile was prepared by the dropwise addition of acetonitrile (520 μL, 10 mmol) to a solution of LDA (10 mmol) in THF at -78° C. followed by stirring for 30 minutes at that temperature. To the acetonitrile anion was added the solution of the xanthate prepared above. The reaction was stirred for 1 hour at -78° C. then 1 hour at 0° C. The reaction was then cooled to -78° C., treated with ethyl bromoacetate (1.1 mL, 10 mmol), warmed to reflux, treated with 1.0M lithium bistrimethylsilylamide (1 mL) and heated at reflux for 1.5 hours. After cooling the reaction, it was partitioned between saturated NaHCO3 solution and methylene chloride. The organic layer was then dried with sodium sulfate, filtered, concentrated in vacuo and flash chromatographed eluting with 4:1 hexane-ethyl acetate to give 343 mg (17% yield) of the title compound.

reactant | methanol | 10 mmol, 404 μL | CO | CH4O
reactant | n-BuLi | 10 mmol, 2.5M, 4.0 mL | [Li]CCCC
reactant | CS2 | 10 mmol, 600 μL | C(=S)=S | CS2
reactant | MeI | 10 mmol, 620 μL | CI | CH3I
reactant | LDA | 10 mmol | [Li+].CC(C)[N-]C(C)C
reactant | ethyl bromoacetate | 10 mmol, 1.1 mL | BrCC(=O)OCC | C4H7BrO2
reactant | lithium bistrimethylsilylamide | 1.0M, 1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 10 mmol, 520 μL | C(C)#N | C2H3N
product | 5-Amino-4-carboethoxy-2-methoxythiophene | 343 mg, 17% yield | NC1=C(C=C(S1)OC)C(=O)OCC | C8H11NO3S
